Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:4].[O:1]=[C:2]([H:3])[C@@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.08556865066
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15]>>[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12],7.59063200077
[C:1]#[C:2][C:3]([C:4]([O:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([C:4]([O:5])([H:6])[H:7])=[C:8]([H:9])[H:10].[H:11],3.67795819235
[O:1][C:2]([H:3])([H:4])[C@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:4].[O:1]=[C:2]([H:3])[C@@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],1.07196056871
[C:1](#[C:2][C:6]([H:7])[H:8])[H:4].[C:3]#[C:5]>>[C:1]#[C:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8],-5.18969109208
[H:1][O:2]/[C:3](=[C:4]/[C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[O:9][C:10]([H:11])([H:12])[H:13].[H:8],1.99147172871
[H:1][C:2]([C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])([H:8])[H:9],3.51923720052
[C:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],-4.86514680765
[H:1][C:2](=[C:3]=[C:4]([H:5])[C:6]([H:7])=[O:8])[C:9]([H:10])[H:11]>>[H:1][C:2]1=[C:3][C:4]([H:5])=[C:6]([H:7])[O:8][C:9]1([H:10])[H:11],0.5168253759100001
[C:8]=[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])[O:5][C:6][H:7]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-5.48003865357
[O:1]=[C:2]([H:3])[C:4]#[C:5].[O:6]=[C:7][H:8]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][C:7][H:8],-1.59937709588
[H:1][C:2]#[C:3][C@@:5]([H:6])([C:7][O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7][O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.89223765747
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]=[O:8].[H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9],-4.06183670026
[C:5]([H:6])([H:7])=[C:8]([H:9])[H:10].[H:1][C:2]#[C:3][O:4]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],0.44551438956
[H:1][C:2]=[C:3]([H:4])[O:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][H:4].[O:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11],0.29928728612100003
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])[H:8].[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],3.71996248873
[H:1][C:2]1=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][C:12]1([H:13])[H:14]>>[H:1][C:3](=[C:2][C:12](/[C:11](=[C:8]/[C:4]([H:5])([H:6])[H:7])[H:10])([H:13])[H:14])[H:9],1.38072117708
[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][C:12]([H:13])([H:14])[H:15],-3.07965419232
[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-1.3531426803
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.76257806107
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[O:13][H:14]>>[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[O:13][H:14].[H:1],3.84533962126
[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-8.0794927
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[H:1][O:2][C:3]#[C:4][C:6]([H:7])[O:8][H:9].[H:5],3.48967506505
[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:1]#[C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10],2.3897146515400003
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1],1.82671637462
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[C:1]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12].[C:2]#[C:3],8.37742979662
[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-2.9916215865099995
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:10]=[C:11]([H:12])[H:13].[H:9],1.4655367634799998
